US06528504B2
4-Chlorophenethyl tosylate (683 mg, 2.20 mmol), sodium carbonate (236 mg, 2.20 mmol) and sodium iodide (20 mg, 0.13 mmol) were added to a solution of (S)-3-(4-nitrobenzoyloxy)pyrrolidine (472 mg, 2.00 mmol) in acetonitrile (10 ml), and they were heated under reflux at 90° C. for 8 hours. The solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (10:1) and then with a mixture of the same solvents (1:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (S)-1-(4-chlorophenethyl)-3-(4-nitrobenzoyloxy)pyrrolidine in the form of a light yellow oil (315 mg, 42%).

reactant | 4-Chlorophenethyl tosylate | 2.20 mmol, 683 mg | S(=O)(=O)(OCCC1=CC=C(C=C1)Cl)C1=CC=C(C)C=C1 | C15H15ClO3S
reactant | sodium carbonate | 2.20 mmol, 236 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
reactant | (S)-3-(4-nitrobenzoyloxy)pyrrolidine | 2.00 mmol, 472 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2CNCC2)C=C1 | C11H12N2O4
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (S)-1-(4-chlorophenethyl)-3-(4-nitrobenzoyloxy)pyrrolidine | ClC1=CC=C(CCN2C[C@H](CC2)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C19H19ClN2O4
